### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Span): add inter/union/sInf/sSup lemmas for Submodule.span

### PR DESCRIPTION
**Pull request by martinwintermath**
This PR adds theorems about the interaction of `Submodule.span` with the lattice operations:

* `inter`,  `sInf` and `biInter` lemmas for `Submodule.span`
* `union`,  `sSup` and `biUnion` lemmas for `Submodule.span`

It also adds `@[simp]` to `span_union`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Span/Defs.lean [hunk 1]
```diff
@@ -279,16 +279,59 @@ theorem span_empty : span R (∅ : Set M) = ⊥ :=
...
+
+@[simp]
+theorem span_inter (S S' : Submodule R M) : span R (S ∩ S') = S ⊓ S' :=
+  (Submodule.gi R M).l_inf_u S S'
+
+theorem span_sInf_le (s : Set (Set M)) : span R (⋂₀ s) ≤ sInf (span R '' s) := by
+  refine le_sInf ?_
+  intro S hS
+  obtain ⟨_, hTs, rfl⟩ := hS
+  exact span_mono (sInter_subset_of_mem hTs)
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Span/Defs.lean]: same proof just reorganized:
```suggestion
theorem span_sInf_le (s : Set (Set M)) : span R (⋂₀ s) ≤ sInf (span R '' s) :=
  le_sInf fun _ ⟨_, hTs, h⟩ ↦ h ▸ span_mono (sInter_subset_of_mem hTs)
```

File: Mathlib/LinearAlgebra/Span/Defs.lean [hunk 2]
```diff
@@ -279,16 +279,59 @@ theorem span_empty : span R (∅ : Set M) = ⊥ :=
...
+    span R (⋃₀ s) = sSup (span R '' s) := by
+  apply le_antisymm
+  · rw [span_le]
+    intro x hx
+    obtain ⟨t, hts, hxt⟩ := hx
+    exact le_sSup (mem_image_of_mem (span R) hts) (subset_span hxt)
+  · refine sSup_le ?_
+    intro P hP
+    rcases hP with ⟨t, ht, rfl⟩
+    exact span_mono (subset_sUnion_of_mem ht)
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Span/Defs.lean]: same proof just reorganized:
```suggestion
  refine le_antisymm ?_ (sSup_le fun P ⟨t, ht, h⟩ ↦ h ▸ span_mono (subset_sUnion_of_mem ht))
  rw [span_le]
  exact fun x ⟨t, hts, hxt⟩ ↦ le_sSup (mem_image_of_mem (span R) hts) (subset_span hxt)
```

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge
